US05512575
1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(5-(1-hydroxyethyl)-3-pyridyl)piperidin-4-ol
A suspension of 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(5-formyl-3-pyridyl)piperidin-4-ol (0.350 g, 0.852 mmol) in tetrahydrofuran (20 mL) under nitrogen was cooled to 0° C. Methyl lithium (1.0M in diethyl ether, 1.72 mL, 2 eq) was added dropwise with dissolution of the suspension as addition proceeded. The solution became a golden brown color. The reaction was warmed to 10° C. and stirred at this temperature for 2.5 h. At the end of this time period, the reaction was quenched with water (25 mL) and the aqueous phase extracted with ethyl acetate (3×20 mL). Combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and reduced to an oil. The reaction product was purified by flash chromatography over silica gel (30 mL, eluent: 10% methanol in diethyl ether) to yield 0.280 g (77%) of the title compound as a white solid. TLC analysis (Rf 0.17, 10% methanol in diethyl ether). 1H NMR (CDCl3, 300 MHz) 8.65 (d, J=2.2 Hz, 1H), 8.48 (d, J=2.0 Hz, 1H), 7.83 (t, J=2.1 Hz, 1H), 7.24 (m, 2H), 7.18 (m, 2H), 6.95 (m, 4H), 4.95 (q, J=6.5 Hz, 1H), 4.28 (br s, 1H), 3.49 (br s, 2H), 2.94 (m, 2H), 2.74 (m, 2H), 2.63 (br s, 2H), 2.13 (m, 2H), 1.76 (m, 2H), 1.59 (m, 3H) MS (CI, CH4) m/z 427 (M+1,100), 455 (M+29,17), 409 (62), 235 (11), 221 (22), 206 (17), 169 (28). The free base was dissolved in methylene chloride containing small amounts of methanol and acidified with ethereal HCl. The hydrochloride salt was precipitated by ether dilution, filtered, rinsed with fresh ether, and dried in vacuo (60° C., 10 pascal, 18 h) to yield a white solid, mp 177°-183° C. The analysis for dihydrochloride was not in agreement with calculated; 1H NMR and MS of salt were completely consistent with the proposed structure.

reactant | 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(5-formyl-3-pyridyl)piperidin-4-ol | 0.852 mmol, 0.350 g | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)(O)C=3C=NC=C(C3)C=O | C27H26N2O2
reactant | Methyl lithium | 1.0M, 1.72 mL, 2 eq | C[Li]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(5-(1-hydroxyethyl)-3-pyridyl)piperidin-4-ol | 0.280 g, 77% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)(O)C=3C=NC=C(C3)C(C)O | C28H30N2O2
